US04699647
5-{2-{(Phenylmethyl)thio]phenyl}-1,3,4-oxadiazol-2(3H)-one
To a solution containing 12.2 g of trichloromethyl chloroformate in 130 ml of p-dioxane was added portionwise 16 g of 2-[(phenylmethyl)thio]benzoic acid, hydrazide [prepared by the procedure of South African Patent Application 838,416 (1983)] to cause a slight exotherm to 37° C. After stirring at ambient temperature for 0.5 hr., the suspension was refluxed for 6 hours, then cooled to 25° C. and poured onto excess ice/water to yield a precipitate. The mixture was filtered, washed with water and the isolated solid was recrystallized from acetonitrile to yield 14 g of the subject compound; m.p. 169°-172° C.

reactant | trichloromethyl chloroformate | 12.2 g | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
reactant | 2-[(phenylmethyl)thio]benzoic acid, hydrazide | 16 g | C1(=CC=CC=C1)CSC1=C(C(=O)NN)C=CC=C1 | C14H14N2OS
solvent | p-dioxane | 130 ml | O1CCOCC1 | C4H8O2
product | 5-{2-{(Phenylmethyl)thio]phenyl}-1,3,4-oxadiazol-2(3H)-one | 14 g | C1(=CC=CC=C1)CSC1=C(C=CC=C1)C1=NNC(O1)=O | C15H12N2O2S
